US07488740B2
9. 6-Methoxymethyl-3-(3-trifluoromethyl-pyridin-2-yl)-pyrido-[2,3-b]pyrazin-8-ol
6-Methoxymethyl-3-(3-trifluoromethyl-pyridin-2-yl)-pyrido-[2,3-b]pyrazin-8-ylamine (252 mg, 0.751 mmol) is dissolved in a solution of acetic acid (2 mL) and water (5 mL). The mixture is heated to 50° C. and sodium nitrite (362 mg, 5.26 mmol) is added in portions over 1 hour. The solution is warmed to 70° C. and stirred overnight. Water (20 mL) is added and the aqueous mixture is extracted with EtOAc (4×50 mL). The combined organic extracts are washed with brine and dried over Na2SO4. The solvent is removed under reduced pressure. The crude product is chromatographed on silica gel eluting with hexanes/acetone (1:1) to afford the title compound as a white solid.

reactant | 6-Methoxymethyl-3-(3-trifluoromethyl-pyridin-2-yl)-pyrido-[2,3-b]pyrazin-8-ylamine | 0.751 mmol, 252 mg | COCC=1C=C(C=2C(=NC(=CN2)C2=NC=CC=C2C(F)(F)F)N1)N | C15H12F3N5O
reactant | sodium nitrite | 5.26 mmol, 362 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
solvent | Water | 20 mL | O | H2O
product | 6-Methoxymethyl-3-(3-trifluoromethyl-pyridin-2-yl)-pyrido-[2,3-b]pyrazin-8-ol | COCC=1C=C(C=2C(=NC(=CN2)C2=NC=CC=C2C(F)(F)F)N1)O | C15H11F3N4O2
